US03957833
By utilizing the procedure of Example 8, by reacting p-farnesyloxybenzoic acid with propargyl bromide, there is obtained p-farnesyloxybenzoic acid propargyl ester; B.P. 245°-250°C/0.1 mmHg.

reactant | p-farnesyloxybenzoic acid | C(C=C(C)CCC=C(C)CCC=C(C)C)OC1=CC=C(C(=O)O)C=C1 | C22H30O3
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-farnesyloxybenzoic acid propargyl ester | C(C#C)OC(C1=CC=C(C=C1)OCC=C(C)CCC=C(C)CCC=C(C)C)=O | C25H32O3
